US07265131B2
Alternatively, to a suspension of 3-chloro-2-methylbenzoic acid (6.8 g, 40 mmol) in methanol (40 mL) was added trimethyl orthoformate (4.4 mL, 40 mmol). HCl gas was then bubbled through the suspension for 20 minutes. The resulting solution was then heated in a 60° C. oil bath. After stirring at 60° C. for 16 hours, the solution was allowed to cool to ambient temperature and concentrated under reduced pressure to afford a thick yellow paste. The semi-solid was melted under reduced pressure using a heat gun, and then cooled to afford 3-chloro-2-methylbenzoic acid methyl ester (7.1 g, 95% yield) as a yellow crystalline solid: 1H-NMR (400 MHz, CDCl3): δ 7.70 (1H, d, J=7.8 Hz), 7.51 (1H, d, J=7.8 Hz), 7.17 (1H, t, J=7.8 Hz), 3.91 (s, 3H), 2.60 (s, 3H) ppm.

reactant | 3-chloro-2-methylbenzoic acid | 40 mmol, 6.8 g | ClC=1C(=C(C(=O)O)C=CC1)C | C8H7ClO2
reactant | trimethyl orthoformate | 40 mmol, 4.4 mL | C(OC)(OC)OC | C4H10O3
solvent | methanol | 40 mL | CO | CH4O
product | 3-chloro-2-methylbenzoic acid methyl ester | 7.1 g, 95% yield | COC(C1=C(C(=CC=C1)Cl)C)=O | C9H9ClO2
